US07429581B2
(ii) 5-[2-(2-Methoxy-ethoxy)-ethoxy]-2H-pyrazole-3-carboxylic acid ethyl ester
To a mixture of 3.4 g 5-Hydroxy-2H-pyrazole-3-carboxylic acid ethyl ester and 3 g K2CO3 in 50 ml acetonitrile, 4 g 1-(2-Bromo-ethoxy)-2-methoxy-ethane were added. After stirring for 1 h at RT the reaction was heated to 50° C. for 4 h. Then 50 ml of water were added and the mixture was extracted with DCM (3×100 ml). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica eluting with a DCM/MeOH gradient. Yield: 1 g.

reactant | 5-Hydroxy-2H-pyrazole-3-carboxylic acid ethyl ester | 3.4 g | C(C)OC(=O)C=1NN=C(C1)O | C6H8N2O3
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-Bromo-ethoxy)-2-methoxy-ethane | 4 g | BrCCOCCOC | C5H11BrO2
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-[2-(2-Methoxy-ethoxy)-ethoxy]-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)OCCOCCOC | C11H18N2O5
